US07259266B2
Step 1. Preparation of ethyl 8-allyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a mixture of ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 21a, Step 2 (1.00 g, 2.07 mmole) and Pd(PPh3)4 (0.239 g, 0.207 mmole) in anhydrous toluene (50 mL) under a dry N2 atmosphere was added tributylallyltin (0.707 mL, 2.28 mmole). The mixture was refluxed for 16 h and 20% NH4F solution (50 mL) was added. The mixture was stirred for 1 h and extracted with EtOAc (200 mL). The extract was washed with brine (100 mL), dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica chromatography (9:1 hexanes:EtOAc) gave 0.770 g (94% yield) of the product as a yellow oil: EIHRMS m/z 396.0769 (M+, C17H14F6O4, Calc'd 396.0796).

reactant | ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | IC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C14H9F6IO4
reactant | tributylallyltin | 2.28 mmole, 0.707 mL | C(CCC)C(C=C(CCCC)CCCC)[Sn]
reactant | NH4F | 50 mL | [NH4+].[F-]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.207 mmole, 0.239 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 8-allyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.770 g, 94% yield | C(C=C)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C17H14F6O4
